US07807708B2
In a manner similar to that of Example 1c, by reacting 3 g of (4-bromo-2-ethylphenyl)diethylamine (11.7 mmol) with 5.2 mL of a 2.5 M solution of n-butyllithium and 3.2 mL (14 mmol) of triisopropyl borate, 0.9 g of 4-diethylamino-3-ethylphenylboronic acid (yield=35%) is obtained in the form of a white solid.

reactant | (4-bromo-2-ethylphenyl)diethylamine | 11.7 mmol, 3 g | BrC1=CC(=C(C=C1)N(CC)CC)CC | C12H18BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 14 mmol, 3.2 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 4-diethylamino-3-ethylphenylboronic acid | 0.9 g, yield=35% | C(C)N(C1=C(C=C(C=C1)B(O)O)CC)CC | C12H20BNO2
